US06307068B1
Step A: 2-(Methylamino)-2-phenylacetonitrile
Benzaldehyde (11 mmol) is added, with stirring, to a solution of NaHSO3 (12 mmol in 4 ml of water). When a white precipitate has formed, 28 ml of an aqueous 25% methylamine solution are added dropwise, and then 12 mmol of potassium cyanide are added at 0° C. The reaction mixture is stirred at room temperature until the reaction is complete. After conventional treatment, the title product is obtained in pure form.

reactant | Benzaldehyde | 11 mmol | C(C1=CC=CC=C1)=O | C7H6O
reactant | NaHSO3 | 12 mmol, 4 ml | OS(=O)[O-].[Na+]
reactant | methylamine | CN | CH5N
reactant | potassium cyanide | 12 mmol | [C-]#N.[K+]
product | 2-(Methylamino)-2-phenylacetonitrile | CNC(C#N)C1=CC=CC=C1 | C9H10N2
